US05510368
Ethyl 2-(5-bromo-2-methyl-1H-indol-3-yl)acetate
A mixture of 4-bromophenylhydrazine hydrochloride (2.23 g, 10 mmol) and ethyl levulinate (1.58 g, 11 mmol) in 10 mL HOAc was heated to reflux for 20 h. The HOAc was removed under vaccum. The residue was dissolved in 10 mL EtOH. A solution of HCl in dioxane (12 mmol, 4M solution) was added. The mixture was heated to reflux for 4 h. The mixture was concentrated under vacuum and the residue was purified by flash chromatography on silica gel, eluting with 20% EtOAc in hexane to afford 2.1 g (78%) of the title compound.

reactant | 4-bromophenylhydrazine hydrochloride | 10 mmol, 2.23 g | Cl.BrC1=CC=C(C=C1)NN
reactant | ethyl levulinate | 11 mmol, 1.58 g | C(CCC(=O)C)(=O)OCC | C7H12O3
reactant | HCl | Cl | ClH
reactant | dioxane | 12 mmol, 4M | O1CCOCC1 | C4H8O2
solvent | HOAc | 10 mL | CC(=O)O | C2H4O2
product | Ethyl 2-(5-bromo-2-methyl-1H-indol-3-yl)acetate | 2.1 g, 78% | BrC=1C=C2C(=C(NC2=CC1)C)CC(=O)OCC | C13H14BrNO2
